US04003908
0.03 g. of sodium hydride and 0.6 g. of propane-2-ol are refluxed with stirring in 50 ml. dry benzene for 10 hours. After this time, 2.7 g. of 7-chloro-3-ethyl-5-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester obtained in Example 1 d are added and heating is continued for an additional 10 hours. The inorganic precipitate is filtered off and the solvent removed by distillation. The oily residue is distilled to obtain 3-ethyl-5-methyl-7-(1-methylethoxy)-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester, b.p. 180°-185° /0.05. Yield 2 g. (69%).

reactant | sodium hydride | [H-].[Na+]
reactant | propane-2-ol | CC(C)O | C3H8O
reactant | 7-chloro-3-ethyl-5-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester | ClC1=C2C(=NC(=C1C(=O)OCC)C)N(C=N2)CC | C12H14ClN3O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-ethyl-5-methyl-7-(1-methylethoxy)-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester | C(C)N1C=NC=2C1=NC(=C(C2OC(C)C)C(=O)OCC)C | C15H21N3O3
